US07893056B2
(1S,4S)-2-(2-Chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-5-methyl-2,5-diazabicyclo[2.2.1]heptane (170 mg, 0.62 mmol), (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (190 mg, 0.62 mmol), and HOAt (93 mg, 0.68 mmol) were dissolved in 4 mL of DMF. NMM (0.27 mL, 2.5 mmol) was added, followed by EDC (131 mg, 0.36 mmol). After stirring overnight at room temperature, the reaction mixture was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1S,4S)-5-methyl-2,5-diazabicyclo[2.2.1]hept-2-yl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (90 mg, 55%).

reactant | (1S,4S)-2-(2-Chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-5-methyl-2,5-diazabicyclo[2.2.1]heptane | 0.62 mmol, 170 mg | ClC1=NC(=C(C(=N1)N1[C@@H]2CN([C@H](C1)C2)C)F)NN | C10H14ClFN6
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.62 mmol, 190 mg | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | HOAt | 0.68 mmol, 93 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 2.5 mmol, 0.27 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.36 mmol, 131 mg
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1S,4S)-5-methyl-2,5-diazabicyclo[2.2.1]hept-2-yl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 90 mg, 55% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1[C@@H]2CN([C@H](C1)C2)C | C27H35ClFN7O3
